### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/Module): Adds Module instance over Matrix rings

### PR DESCRIPTION
**Pull request by Whysoserioushah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+matrix, module
+-/
+
+variable {ι R M N P : Type*} [Ring R] [Fintype ι] [DecidableEq ι] [AddCommGroup M] [Module R M]
+  [AddCommGroup N] [Module R N] [AddCommGroup P] [Module R P]
+
+namespace Matrix
+
+/-- `Mⁿ` is a `Mₙ(R)` module -/
+scoped instance matrixModule : Module (Matrix ι ι R) (ι → M) where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Module.lean:37]: This forms a diamond when `M = Matrix ι ι R`

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:37]: It's scoped so should be fine?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:37]: True, but it should have a comment to that effect.

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:37]: done!

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+
+variable {ι R M N P : Type*} [Ring R] [Fintype ι] [DecidableEq ι] [AddCommGroup M] [Module R M]
+  [AddCommGroup N] [Module R N] [AddCommGroup P] [Module R P]
+
+namespace Matrix
+
+/-- `Mⁿ` is a `Mₙ(R)` module, note that this creates a diamond when `M` is `Matrix ι ι R` or when
+  `M` is `R`. -/
+scoped instance matrixModule : Module (Matrix ι ι R) (ι → M) where
+  smul N v i := ∑ j : ι, N i j • v j
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean:38]: Should you be using `Matrix.mulVec` instead?

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:37]: I don't think you should be scoping it in `Matrix`. `open Matrix` is already very often and I think most of them aren't intending to have this instance.

I think not scoping at all and `attribute [local instance]` is enough.

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:38]: No because `Matrix.mulVec` is for `Matrix n m R` and `n \to R` with the same `R` :-)

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 3]
```diff
@@ -0,0 +1,31 @@
...
+import Mathlib.Algebra.Category.ModuleCat.Basic
+import Mathlib.LinearAlgebra.Matrix.Module
+
+/-!
+## Main definitions
+- `ModuleCat.toMatrixModCat`: The functor from `Mod-R` to `Mod-Mₙ(R)` induced by
+  `LinearMap.mapModule` and `Matrix.matrixModule`.
+
+# TODO
+- Prove `Mod-R` and `Mod-Mₙ(R)` are morita-equivalent.
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]: Either `R` and `Mₙ(R)` are Morita-equivalent or `Mod-R` and `Mod-Mₙ(R)` are equivalent.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: yes sorry

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+
+end Matrix
+
+namespace LinearMap
+
+open Matrix
+
+/-- The induced linear map from `Mⁿ` to `Nⁿ` by a linear map `f : M → N`. -/
+@[simps]
+def mapModule (f : M →ₗ[R] N) : (ι → M) →ₗ[Matrix ι ι R] (ι → N) where
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]: I don't think `LinearMap.mapModule` is a good name for this map. The name should at least mention pi-types or matrices.

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: done!

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: `.mapMatrixModule`?

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+    simp_rw [mul_apply, Finset.smul_sum, Finset.sum_smul, MulAction.mul_smul]
+    rw [Finset.sum_comm]
+  smul_zero v := funext fun i ↦ show ∑ _, _ = _ by simp
+  smul_add N v₁ v₂ := funext fun i ↦ show ∑ j : ι, N i j • (v₁ + v₂) j = (∑ _, _) + (∑ _, _) by
+    simp [smul_add, Finset.sum_add_distrib]
+  add_smul N₁ N₂ v := funext fun i ↦ show ∑ j : ι, (N₁ + N₂) i j • v j = (∑ _, _) + (∑ _, _) by
+    simp [add_smul, Finset.sum_add_distrib]
+  zero_smul v := funext fun i ↦ show ∑ _, _ = _ by simp
+
+lemma smul_vec_def (N : Matrix ι ι R) (v : ι → M) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
lemma smulVec_def (N : Matrix ι ι R) (v : ι → M) :
```
And can you add in the docstring of `Matrix.matrixModule` that the intended name for the action is `smulVec`?

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: Sure. And can you also mention in the docstring that this is the matrix-linear version of `LinearMap.compLeft`?

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+    N • v = fun i ↦ ∑ j : ι, N i j • v j := rfl
+
+lemma smul_vec_def' (N : Matrix ι ι R) (v : ι → M) : N • v = ∑ j : ι, fun i ↦ N i j • v j := by
+  ext; simp [smul_vec_def]
+
+@[simp]
+lemma smul_vec_apply (N : Matrix ι ι R) (v : ι → M) (i : ι) :
+    (N • v) i = ∑ j : ι, N i j • v j := rfl
+
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean:59]: An `[IsScalarTower R S M] : IsScalarTower R (Matrix ι ι S) (ι → M)` would be useful.

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: sure

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: done!

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:59]: done!

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:37]: scoping with `Matrix.Module` maybe?

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:37]: changed!

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+  zero_smul v := funext fun i ↦ show ∑ _, _ = _ by simp
+
+lemma smulVec_def (N : Matrix ι ι R) (v : ι → M) :
+    N • v = fun i ↦ ∑ j : ι, N i j • v j := rfl
+
+lemma smulVec_def' (N : Matrix ι ι R) (v : ι → M) : N • v = ∑ j : ι, fun i ↦ N i j • v j := by
+  ext; simp [smulVec_def]
+
+@[simp]
+lemma smul_vec_apply (N : Matrix ι ι R) (v : ι → M) (i : ι) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
lemma smulVec_apply (N : Matrix ι ι R) (v : ι → M) (i : ι) :
```

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+    (N • v) i = ∑ j : ι, N i j • v j := rfl
+
+instance (S) [Ring S] [SMul R S] [Module S M] [IsScalarTower R S M] :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
scoped instance (S : Type*) [Ring S] [SMul R S] [Module S M] [IsScalarTower R S M] :
```

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 9]
```diff
@@ -0,0 +1,80 @@
...
+/-- The induced linear map from `Mⁿ` to `Nⁿ` by a linear map `f : M → N`, this is the matrix linear
+  version of `LinearMap.compLeft`. -/
+@[simps]
+def mapMatrixModule (f : M →ₗ[R] N) : (ι → M) →ₗ[Matrix ι ι R] (ι → N) where
+  toFun := LinearMap.compLeft f ι
+  map_add' := map_add _
+  map_smul' _ _ := by ext; simp
+
+@[simp]
+lemma id_mapMatrixModule :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
lemma mapMatrixModule_id :
```
Because it is actually `mapMatrixModule LinearMap.id`. Same below.

Comment (erdOne) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: Also can you add an applied version of these two? Thanks.

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 10]
```diff
@@ -0,0 +1,80 @@
...
+end Matrix.Module
+
+namespace LinearMap
+
+open Matrix.Module
+
+/-- The induced linear map from `Mⁿ` to `Nⁿ` by a linear map `f : M → N`, this is the matrix linear
+  version of `LinearMap.compLeft`. -/
+@[simps]
+def mapMatrixModule (f : M →ₗ[R] N) : (ι → M) →ₗ[Matrix ι ι R] (ι → N) where
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean:74]: Should `ι` be explicit here?

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 11]
```diff
@@ -0,0 +1,80 @@
...
+matrix, module
+-/
+
+variable {ι R M N P : Type*} [Ring R] [Fintype ι] [DecidableEq ι] [AddCommGroup M] [Module R M]
+  [AddCommGroup N] [Module R N] [AddCommGroup P] [Module R P]
+
+namespace Matrix.Module
+
+/-- `Mⁿ` is a `Mₙ(R)` module, note that this creates a diamond when `M` is `Matrix ι ι R` or when
+  `M` is `R`. (The intended name is `Matrix.smulVec`.) -/
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
  `M` is `R`. (The intended name in lemmas is `smulVec`.) -/
```
And can you also mention that this is scoped in `Matrix.Module`.

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 12]
```diff
@@ -0,0 +1,80 @@
...
+    simp_rw [mul_apply, Finset.smul_sum, Finset.sum_smul, MulAction.mul_smul]
+    rw [Finset.sum_comm]
+  smul_zero v := funext fun i ↦ show ∑ _, _ = _ by simp
+  smul_add N v₁ v₂ := funext fun i ↦ show ∑ j : ι, N i j • (v₁ + v₂) j = (∑ _, _) + (∑ _, _) by
+    simp [smul_add, Finset.sum_add_distrib]
+  add_smul N₁ N₂ v := funext fun i ↦ show ∑ j : ι, (N₁ + N₂) i j • v j = (∑ _, _) + (∑ _, _) by
+    simp [add_smul, Finset.sum_add_distrib]
+  zero_smul v := funext fun i ↦ show ∑ _, _ = _ by simp
+
+lemma smulVec_def (N : Matrix ι ι R) (v : ι → M) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]: I think either `Matrix.smulVec_def` or `Matrix.Module.smul_def`.

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: sure

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 13]
```diff
@@ -0,0 +1,31 @@
...
+import Mathlib.Algebra.Category.ModuleCat.Basic
+import Mathlib.LinearAlgebra.Matrix.Module
+
+/-!
+## Main definitions
+- `ModuleCat.toMatrixModCat`: The functor from `Mod-R` to `Mod-Mₙ(R)` induced by
+  `LinearMap.mapModule` and `Matrix.matrixModule`.
+
+# TODO
+- Prove `R` and `Mₙ(R)` are morita-equivalent.
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]:
```suggestion
## TODO (Edison)
- Prove `R` and `Mₙ(R)` are morita-equivalent.
```
You are doing this todo right? 
(or change it to your secret name or your handle)

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 14]
```diff
@@ -0,0 +1,80 @@
...
+Copyright (c) 2025 Yunzhou Xie. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yunzhou Xie
+-/
+import Mathlib.Algebra.Module.BigOperators
+import Mathlib.Data.Matrix.Mul
+import Mathlib.LinearAlgebra.Pi
+
+/-!
+# Main Results
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
## Main Results
```
Can you give this an actual title (e.g. `Mₙ(R)`-module structure on `Mⁿ`). Same for the other file.

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 13 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: yes I am :)

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 14 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: sure

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 12 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: changed

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 10 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean:74]: changed!

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 9 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: changed and added!

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 8 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: done!

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 15]
```diff
@@ -0,0 +1,97 @@
...
+public import Mathlib.Data.Matrix.Mul
+public import Mathlib.LinearAlgebra.Pi
+
+/-!
+# Mₙ(R)-module structure on `Mⁿ`
+
+## Main Results
+
+- `Matrix.matrixModule`: This instance shows `ι → M` is a module over `Matrix ι ι R`, and the action
+  of it is a generalization of `Matrix.mulVec`.
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]: It is `Matrix.Module.matrixModule` now, and can you mention that this is available in the `Matrix.Module` namespace?

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 16]
```diff
@@ -0,0 +1,97 @@
...
+- `LinearMap.mapModule`: This defines a linear map from `ι → M` to `ι → N` over
+  `Matrix ι ι R` induced by a linear map from `M` to `N` and together with `Matrix.matrixModule`
+  it gives a functor from the category of `R`-modules to the category of `Matrix ι ι R`-modules.
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]: The names also need changing

File: Mathlib/LinearAlgebra/Matrix/Module.lean [hunk 17]
```diff
@@ -0,0 +1,97 @@
...
+
+@[expose] public section
+
+variable {ι R M N P : Type*} [Ring R] [Fintype ι] [DecidableEq ι] [AddCommGroup M] [Module R M]
+  [AddCommGroup N] [Module R N] [AddCommGroup P] [Module R P]
+
+namespace Matrix.Module
+
+/-- `Mⁿ` is a `Mₙ(R)` module, note that this creates a diamond when `M` is `Matrix ι ι R` or when
+  `M` is `R`. (The intended name in lemmas is `smulVec`.) -/
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/Module.lean]:
```suggestion
  `M` is `R`. -/
```

File: Mathlib/LinearAlgebra/Matrix/Module.lean (hunk 15 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Module.lean]: done!

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 18]
```diff
@@ -0,0 +1,37 @@
...
+
+public import Mathlib.Algebra.Category.ModuleCat.Basic
+public import Mathlib.LinearAlgebra.Matrix.Module
+
+/-!
+# Morita Equivalece between `R` and `Mₙ(R)`
+
+## Main definitions
+- `ModuleCat.toMatrixModCat`: The functor from `Mod-R` to `Mod-Mₙ(R)` induced by
+  `LinearMap.mapModule` and `Matrix.matrixModule`.
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean]: The docstrings here also needs changing.

File: Mathlib/RingTheory/Morita/Matrix.lean [hunk 19]
```diff
@@ -0,0 +1,37 @@
...
+@[expose] public section
+
+universe u
+
+variable (R ι : Type*) [Ring R] [Fintype ι] [DecidableEq ι]
+
+open CategoryTheory Matrix.Module
+
+/-- The functor from `Mod-R` to `Mod-Mₙ(R)` induced by `LinearMap.mapModule` and
+  `Matrix.matrixModule`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/Matrix.lean:31]: Also here.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 18 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: sure!

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean]: done

File: Mathlib/RingTheory/Morita/Matrix.lean (hunk 19 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/Matrix.lean:31]: done!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
